US05496843
3) 4-tert-Butoxycarbonylaminomethyl-2-tert-butoxycarbonylmethoxyaniline
A solution of 4-azidomethyl-2-tert-butoxycarbonylmethoxynitrobenzene (2.96 g, 10 mmol)in ethyl acetate (50 mL)in the presence of di-tert-butyl dicarbonate (2.40 g, 11 mmol) and 10% Pd/C (1 g) was hydrogenated for 12 h under atmospheric pressure of hydrogen at room temperature. The catalyst was removed by filtration through celite and the filtrate was concentrated. The residue was purified by silica gel column chromatography with 3:1 to 1:1 hexane/ethyl acetate to give 1.75 g of the title compound (50%): 1H NMR (CDCl3) δ6.73 (dd, 1H, J=8.3 Hz), 6.68 (d, 1H, J=8.3, 1.7 Hz), 6.66 (d, 1H, J=8.3 Hz), 4.65~4.75 (br, 1H), 4.52 (s, 2H), 4.16 (d, 2H, J=5.6 Hz), 3.90~4.00 (br, 2H), 1.49 (s, 9H), 1.46 (s, 9H).

reactant | 4-azidomethyl-2-tert-butoxycarbonylmethoxynitrobenzene | 10 mmol, 2.96 g | N(=[N+]=[N-])CC1=CC(=C(C=C1)[N+](=O)[O-])OCC(=O)OC(C)(C)C | C13H16N4O5
reactant | di-tert-butyl dicarbonate | 11 mmol, 2.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-tert-Butoxycarbonylaminomethyl-2-tert-butoxycarbonylmethoxyaniline | 1.75 g, 50% | C(C)(C)(C)OC(=O)NCC1=CC(=C(N)C=C1)OCC(=O)OC(C)(C)C | C18H28N2O5
